US07705042B2
4-Cyano-1H-pyrrole-2-carboxylic acid [4-[1-(2-dimethylamino-acetyl)-piperidin-4-yl]-2-(4-methyl-piperidin-1-yl)-phenyl]-amide
A mixture of 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide bis(trifluoroacetic acid salt) (as prepared in Example 35, 20.0 mg, 0.0320 mmol) in 2 mL of 1:1 1N NaOH/MeOH solution was stirred at RT for 1 h. Treated with 20 mL of EtOAc, the mixture was washed with H2O (3×5 mL). The aqueous layers were extracted with EtOAc (2×5 mL). The combined organic layers were washed with brine (10 mL), dried (Na2SO4) and concentrated in vacuo to give a white solid. The solid was added to a mixture of N,N-dimethylglycine (5.0 mg, 0.048 mmol), EDCI (9.2 mg, 0.048 mmol), HOBt (6.5 mg, 0.048 mmol) and DIEA (16.7 μL, 0.096 mmol) in 0.80 mL of DCM. The resulting mixture was stirred at RT for 4 h. Treated with 30 mL of EtOAc, the mixture was washed with H2O (3×5 mL), brine (5 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (1-5% MeOH/DCM) gave 12 mg (78%) of the title compound as a white solid: 1H-NMR (CDCl3; 400 MHz): δ 11.0 (s, 1H), 9.17 (s, 1H), 8.31 (d, 1H, J=8.4 Hz), 7.48 (d, 1H, J=1.3 Hz), 7.05 (d, 1H, J=1.8 Hz), 7.01 (dd, 1H, J=8.4, 1.8 Hz), 6.87 (d, 1H, J=1.3 Hz), 4.77 (d, 1H, J=13.3 Hz), 4.24 (d, 1H, J=13.3 Hz), 3.07-3.25 (m, 3H), 2.96 (d, 2H, J=11.8 Hz), 2.61-2.77 (m, 4H), 2.33 (s, 6H), 1.82-1.94 (m, 4H), 1.53-1.70 (m, 3H), 1.32-1.47 (m, 2H), 1.09 (d, 3H, J=6.5 Hz). Mass spectrum (ESI, m/z): Calcd. for C27H36N6O2, 477.3 (M+H), found 477.2.

reactant | 4-cyano-1H-pyrrole-2-carboxylic acid [2-(4-methyl-piperidin-1-yl)-4-piperidin-4-yl-phenyl]-amide | CC1CCN(CC1)C1=C(C=CC(=C1)C1CCNCC1)NC(=O)C=1NC=C(C1)C#N | C23H29N5O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH MeOH | 1N | [OH-].[Na+].CO
reactant | N,N-dimethylglycine | 0.048 mmol, 5.0 mg | CN(CC(=O)O)C | C4H9NO2
reactant | EDCI | 0.048 mmol, 9.2 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.048 mmol, 6.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.096 mmol, 16.7 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.80 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-Cyano-1H-pyrrole-2-carboxylic acid [4-[1-(2-dimethylamino-acetyl)-piperidin-4-yl]-2-(4-methyl-piperidin-1-yl)-phenyl]-amide | 12 mg, 78% | CN(CC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1NC=C(C1)C#N)N1CCC(CC1)C)C | C27H36N6O2
